US06544604B2
In a 1-L three-neck flask equipped with a stirrer, a thermometer and a dropping funnel, 27.6 g (122.9 mmol) of ethyl diethylphosphinoacetate was dissolved in 350 ml of IRAQ tetrahydrofuran (hereinafter abbreviated as THF) under nitrogen atmosphere and the solution was cooled down to −5° C. while stirring. 15.2 g (135.2 mmol) of potassium t-butoxide was added thereto, and the solution was stirred at room temperature for 2 hours. The solution was cooled down again to 0° C., and a solution of 25.0 g (94.5 mmol) of trans-4-(trans-4-pentylcyclohexyl)cyclohexanecarbaldehyde dissolved in 100 ml of THF was added dropwise. Further, the solution was stirred at room temperature for 14 hours, and then 200 ml of water and 400 ml of toluene were added to the reaction mixture and stirred. The separated toluene layer was washed twice with 200 ml of water and dried over anhydrous magnesium sulfate, and then toluene was distilled off under reduced pressure. The residue was purified by means of a silica gel column chromatography with toluene used as a developing solvent to obtain 12.8 g of ethyl 3-(trans-4-(trans-4-pentylcyclohexyl)cyclohexyl)propenoate (yellow oily substance).

reactant | ethyl diethylphosphinoacetate | 122.9 mmol, 27.6 g | C(C)P(CC)CC(=O)OCC | C8H17O2P
reactant | potassium t-butoxide | 135.2 mmol, 15.2 g | CC(C)([O-])C.[K+]
reactant | trans-4-(trans-4-pentylcyclohexyl)cyclohexanecarbaldehyde | 94.5 mmol, 25.0 g | C(CCCC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C=O | C18H32O
reactant | water | 200 ml | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | THF | 100 ml | O1CCCC1 | C4H8O
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-(trans-4-(trans-4-pentylcyclohexyl)cyclohexyl)propenoate | 12.8 g | C(CCCC)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C=CC(=O)OCC | C22H38O2
